US07919468B2
Z-Trp-NHPh:
To a solution of Z-Trp-OH (2 g, 5.9 mmol) in THF (88 mL) at 5° C. were added aniline (540 μL, 5.9 mmol) and DCC (1.6 g, 7.7 mmol). The reaction was allowed to warn up to room temperature overnight. The solvent was evaporated off and the crude was triturated with ethyl acetate (50 mL). After filtration, the organic phase was successively washed with aqueous 5% KHSO4, aqueous 10% KHCO3, brine and was dried over Na2SO4. The solvent was removed in vacuo. The crude amide was purified by precipitation in methanol/pentane to give a white amorphous solid (1.7 g, 69%). 1H NMR (300 MHz, CDCl3) δ 3.25 (dd, J=14.4 Hz, J=8 Hz, 1H, CH2), 3.46 (dd, J=14.4 Hz, J=5.3 Hz, 1H, CH2), 4.67 (m, 1H, CHα), 5.12 (m, 2H, CH2 (Z)), 5.63 (broad s, 1H, NHZ), 7.06-7.72 (m, 16H, 15 aromatic H, NH amide), 8.09 (s, 1H, NH indole). 13C NMR (75 MHz, CDCl3) δ 28.6 (CH2 Trp), 56.1 (CHα), 67.2 (CH2 (Z)), 111.4, 118.8, 119.9, 120.1, 122.4, 123.4, 124.5, 127.1, 128.1, 128.3, 128.6, 128.9, 136, 136.2, 137.1 (20 aromatic C), 156 (CO carbamate), 169.7 (CO amide). Anal. Calcd. for C25H23N3O3: C, 72.62; H, 5.61; N, 10.16. Found: C, 72.75; H, 5.58; N, 9.95.

reactant | Z-Trp-OH | 5.9 mmol, 2 g | N([C@@H](CC1=CNC2=CC=CC=C12)C(=O)O)C(=O)OCC1=CC=CC=C1 | C19H18N2O4
reactant | aniline | 5.9 mmol, 540 μL | NC1=CC=CC=C1 | C6H7N
reactant | DCC | 7.7 mmol, 1.6 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
solvent | THF | 88 mL | C1CCOC1 | C4H8O
product | Z-Trp-NHPh | 1.7 g, 69% | N([C@@H](CC1=CNC2=CC=CC=C12)C(=O)NC1=CC=CC=C1)C(=O)OCC1=CC=CC=C1 | C25H23N3O3
